US07872031B2
A solution of 2,3-di(2-hydroxyethyl)furan (23 mmol) in methylene chloride (114 mmol) is cooled to 0° C. and treated with triethylamine (69 mmol) followed by dropwise addition of methanesulfonyl chloride (50.4 mmol) over 10 minutes. After 1 hour the reaction mixture is transferred to a separatory funnel and extracted with cold water, 10% citric acid, saturated aqueous NaHCO3, and brine. The organic layer is dried and concentrated twice with the aid of dioxane to produce 2,3-di(2-methanesulfonyloxy-ethyl)furan, which is used crude without further purification.

reactant | 2,3-di(2-hydroxyethyl)furan | 23 mmol | OCCC=1OC=CC1CCO | C8H12O3
reactant | methylene chloride | 114 mmol | C(Cl)Cl | CH2Cl2
reactant | triethylamine | 69 mmol | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 50.4 mmol | CS(=O)(=O)Cl | CH3ClO2S
product | 2,3-di(2-methanesulfonyloxy-ethyl)furan | CS(=O)(=O)OCCC=1OC=CC1CCOS(=O)(=O)C | C10H16O7S2
